US06723722B1
A solution of 1-(tert-butoxycarbonyl)-4-piperidinylacetic acid (440 mg), 1-amino-4-benzyloxycarbonyl-2-piperazinone (541 mg), triethylamine (273 mg) and HOBt (333 mg) in DMF (30 ml) was combined with WSC (518 mg) and stirred at room temperature for 15 hours. The reaction mixture was concentrated to obtain a residue, which was partitioned between ethyl acetate and water, and the organic phase was washed with water, aqueous sodium bicarbonate, an aqueous solution of citric acid and brine, dried and concentrated to obtain N-(4-benzyloxycarbonyl-2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide (840 mg).

reactant | 1-(tert-butoxycarbonyl)-4-piperidinylacetic acid | 440 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)O | C12H21NO4
reactant | 1-amino-4-benzyloxycarbonyl-2-piperazinone | 541 mg | NN1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=O | C12H15N3O3
reactant | HOBt | 333 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 518 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 273 mg | C(C)N(CC)CC | C6H15N
product | N-(4-benzyloxycarbonyl-2-oxo-1-piperazinyl)-2-[1-(tert-butoxycarbonyl)-4-piperidinyl]acetamide | 840 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)NC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C24H34N4O6
